US04599357
To the stirred solution of 1.8 g of 5-hydroxyindoline-2-carboxylic acid ethyl ester in 50 ml of methylene chloride, is added 1.5 g of solid sodium bicarbonate, followed by 1.6 g of 3-acetylthio-2-methylpropanoyl chloride during 1 minute. The mixture is stirred for 3 hours at room temperature, diluted with 100 ml of methylene chloride and washed with 50 ml of water, 50 ml of 1N hydrochloric acid and 50 ml of saturated aqueous sodium bicarbonate. The organic layer is dried, evaporated and the residue taken up in 20 ml of methanol. This solution, and 17 ml of 2.03N aqueous potassium hydroxide, are each deoxygenated by bubbling nitrogen through for 10 minutes. The latter solution is added to the former and the mixture stirred for 2 hours at room temperature. It is combined with 50 ml of 1N hydrochloric acid, extracted thrice with 50 ml of methylene chloride, the extract dried and evaporated at room temperature. The residue is converted to its dicyclohexylamine salt as described previously, to yield the dicyclohexylammonium 1-(3-mercapto-2-methylpropanoyl)-5-hydroxyindoline-2-carboxylate melting at 208°-211°.

reactant | 5-hydroxyindoline-2-carboxylic acid ethyl ester | 1.8 g | C(C)OC(=O)C1NC2=CC=C(C=C2C1)O | C11H13NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 3-acetylthio-2-methylpropanoyl chloride | 1.6 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | dicyclohexylammonium 1-(3-mercapto-2-methylpropanoyl)-5-hydroxyindoline-2-carboxylate | SCC(C(=O)N1C(CC2=CC(=CC=C12)O)C(=O)[O-])C.C1(CCCCC1)[NH2+]C1CCCCC1 | InChI=1S/C13H15NO4S.C12H23N/c1-7(6-19)12(16)14-10-3-2-9(15)4-8(10)5-11(14)13(17)18;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h2-4,7,11,15,19H,5-6H2,1H3,(H,17,18);11-13H,1-10H2
